US08202873B2
3′-Chloro-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
Dissolve 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (3.43 g, 17.3 mmol) in tetrahydrofuran (100 mL). Add 1-methyl-1H-pyrazole-4-carbaldehyde (2.244 g, 20.38 mmol) in dry tetrahydrofuran (5 mL), stir for 10 min. at room temperature, add sodium triacetoxyborohydride (4.32 g, 20.4 mmol) and subject the reaction to ultrasound stirring for 6 hr. at room temperature. Add saturated aqueous sodium hydrogen carbonate (100 mL) then 2 N sodium hydroxide (10 mL) to the mixture and extract with DCM (2×200 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®, concentrate and purify (silica gel chromatography, eluting with 0:100 to 8:92 methanol:DCM), to give the title preparation as a crystalline solid (5.21 g, 92%). MS (ES): m/z=293.1 [M+H]+.

reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 17.3 mmol, 3.43 g | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | 20.38 mmol, 2.244 g | CN1N=CC(=C1)C=O | C5H6N2O
reactant | sodium triacetoxyborohydride | 20.4 mmol, 4.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3′-Chloro-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C | C13H17ClN6
